US04053476
75 parts of α-cyano-3-oxo-1-cyclohexen-1-acetamide in 400 parts by volume of dimethylformamide and 75 parts of triethyl orthoformate are heated on a steam bath for 3 hours to 16 hours. Solvent was then removed in vacuum to give a syrup which is taken up in ethyl acetate. Cooling of this solution gives 2,3,5,6,7,8-hexahydro-3,8-dioxo-4-isoquinolinecarbonitrile which is identical to the product of Example 3.

reactant | α-cyano-3-oxo-1-cyclohexen-1-acetamide | C(#N)C(C(=O)N)C1=CC(CCC1)=O | C9H10N2O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,3,5,6,7,8-hexahydro-3,8-dioxo-4-isoquinolinecarbonitrile | O=C1NC=C2C(CCCC2=C1C#N)=O | C10H8N2O2
